US08383615B2
Step 1: Synthesis of (S)-1-(4-Chloro-phenyl)-azetidine-2-carboxylic acid
A sealed tube is charged with (S)-Azetidine-2-carboxylic acid; hydrochloride (2 g; 19.8 mmol), 4-bromochlorobenzene (3.8 g; 19.8 mmol) and copper iodide (I) (0.38 g; 1.99 mmol) is evacuated and back-filled with Argon 3 times. Dimethylacetamide (40 mL) is added and the tube is sealed and purged with Argon and evacuated 3 times. The sealed tube is heated in 110° C. oil bath for 72 hours. After this time, the reaction mixture is cooled to room temperature and partitioned between ethyl acetate and water. The organic layer is discarded. The aqueous layer is acidified to PH˜1 by adding 1N hydrochloric acid and then extracted with ethyl acetate twice. The organics are combined and washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography on silica gel using methanol/methylene chloride provides the title compound, m/z 212 [M+H+].

reactant | (S)-Azetidine-2-carboxylic acid | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | hydrochloride | 19.8 mmol, 2 g | Cl | ClH
reactant | 4-bromochlorobenzene | 19.8 mmol, 3.8 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
catalyst | copper iodide | 1.99 mmol, 0.38 g | [Cu](I)I
solvent | Dimethylacetamide | 40 mL | CC(=O)N(C)C | C4H9NO
product | (S)-1-(4-Chloro-phenyl)-azetidine-2-carboxylic acid | ClC1=CC=C(C=C1)N1[C@@H](CC1)C(=O)O | C10H10ClNO2
